US07074800B1
Using an analogous procedure to that described in Example 205, 7-hydroxy-4-(indol-5-ylamino)-6-methoxyquinazoline (98 mg, 0.32 mmol), (prepared as described for the starting material in Example 201), was reacted with 3-(1,2,3-triazol-1-yl)propan-1-ol (61 mg, 0.48 mmol) to give 4-(indol-5-ylamino)-6-methoxy-7-(3-(1,2,3-triazol-1-yl)propoxy)quinazoline (56 mg, 42%).

reactant | 7-hydroxy-4-(indol-5-ylamino)-6-methoxyquinazoline | 0.32 mmol, 98 mg | OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C2C=CNC2=CC1)OC | C17H14N4O2
reactant | 3-(1,2,3-triazol-1-yl)propan-1-ol | 0.48 mmol, 61 mg | N1(N=NC=C1)CCCO | C5H9N3O
product | 4-(indol-5-ylamino)-6-methoxy-7-(3-(1,2,3-triazol-1-yl)propoxy)quinazoline | 56 mg, 42% | N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1N=NC=C1 | C22H21N7O2
